US07230007B2
0.894 g of 60% sodium hydride (37.25 mmol) was added with stirring to 20 cm3 of dimethylformamide under an argon atmosphere at a temperature in the region of 20° C. and then a solution of 4 g (33.86 mmol) of 1H-pyrrolo[2,3-b]pyridine in 20 cm3 of dimethylformamide was gradually added. After stirring at a temperature in the region of 20° C. for 30 minutes, a solution of 5.816 g (35.55 mmol) of 1-chloroisoquinoline in 20 cm3 of dimethylformamide was added and then the reaction mixture was heated at a temperature in the region of 100° C. for 15 h. After concentrating to dryness under reduced pressure (2.7 kPa), the residue was taken up in 2 times 50 cm3 of water. The residual oil was taken up in 30 cm3 of diethyl ether. The white crystals that formed were filtered off and then dried under reduced pressure (2.7 kPa) at a temperature in the region of 20° C. 4.36 g of 1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine were thus obtained in the form of an off-white solid melting at 87° C.

reactant | sodium hydride | 37.25 mmol, 0.894 g | [H-].[Na+]
reactant | 1H-pyrrolo[2,3-b]pyridine | 33.86 mmol, 4 g | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | 1-chloroisoquinoline | 35.55 mmol, 5.816 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
product | 1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine | 4.36 g | C1(=NC=CC2=CC=CC=C12)N1C=CC=2C1=NC=CC2 | C16H11N3
